US07470790B2
Synthesis of benzyl-(2-hydroxy-ethyl)-carbamic acid tert-butyl ester (III-8)
A solution of di-tert-butyl dicarbonate (0.01 mol) in CH2Cl2 (15 mL) was added dropwise to a solution of 2-benzylamino-ethanol (0.01 mol) in 15 mL of CH2Cl2 and 12 mL of 1M NaOH. After stirring 24 h at room temperature, the organic layer was separated, washed with water (25 mL×2) and dried over anhydrous Na2SO4, Removal of solvent under reduced pressure give crude product as an oil, which was purified by column chromatography (silica gel, hexanes:EtOAc, 7:3) (100%).

reactant | di-tert-butyl dicarbonate | 0.01 mol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-benzylamino-ethanol | 0.01 mol | C(C1=CC=CC=C1)NCCO | C9H13NO
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | NaOH | 1M, 12 mL | [OH-].[Na+]
product | benzyl-(2-hydroxy-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCO)CC1=CC=CC=C1)=O | C14H21NO3
